US04778796
Preparation of 2-phenyl-3-(3-pyridyl)acrylic acid:
To a mixture of 4.3 g of 3-pyridinecarbaldehyde, 5.4 g of phenylacetic acid, and 11.4 ml of acetic anhydride, 5.6 g of triethylamine is added with stirring, and the mixture is stirred at 100° C. for 4 hours. The reaction mixture is alkalified with 10% aqueous sodium bicarbonate solution. The aqueous solution is warmed and filtered. The filtrate is adjusted to pH 4.5 with 10% hydrochloric acid, and the resulting precipitate is collected and recrystallized from ethanol to give 2.7 g of the title compound, m.p. 190°-192° C.

reactant | 3-pyridinecarbaldehyde | 4.3 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | phenylacetic acid | 5.4 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | acetic anhydride | 11.4 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | triethylamine | 5.6 g | C(C)N(CC)CC | C6H15N
product | 2-phenyl-3-(3-pyridyl)acrylic acid | 2.7 g | C1(=CC=CC=C1)C(C(=O)O)=CC=1C=NC=CC1 | C14H11NO2
